US08426449B2
Step 3: [3-(4-Bromo-2-ethylaminomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester
Prepared according to the procedure described in Example 3, Step 2, using the following starting materials: [3-(4-bromo-2-formyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester and ethylamine (2M in THF).

reactant | [3-(4-bromo-2-formyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)C=O)=O | C17H15BrO5
reactant | ethylamine | 2M | C(C)N | C2H7N
product | [3-(4-Bromo-2-ethylaminomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CNCC)=O | C19H22BrNO4
